US07667041B2
Sodium hydride (171 mg) was added to a DMF (10 mL) solution of 4-fluoro-3-hydroxybenzaldehyde (300 mg) obtained above at room temperature, and the reaction solution was agitated for 30 minutes. Then, iodoethane (0.26 mL) was added dropwise to the reaction solution, and the reaction mixture was agitated at room temperature for 1 hour. After the reaction ended, water and ethyl acetate were added to the reaction solution under ice-cooling and the organic layer was separated. The obtained organic layer was washed with a saturated sodium chloride solution, and the solvent was evaporated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 5:1), and 250 mg (70%) 3-ethoxy-4-fluorobenzaldehyde was obtained. The physical properties of the compound are as follows.

reactant | Sodium hydride | 171 mg | [H-].[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-3-hydroxybenzaldehyde | 300 mg | FC1=C(C=C(C=O)C=C1)O | C7H5FO2
reactant | iodoethane | 0.26 mL | ICC | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-ethoxy-4-fluorobenzaldehyde | 250 mg, 70% | C(C)OC=1C=C(C=O)C=CC1F | C9H9FO2
